US09388176B2
3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid
A suspension of ethyl-3-(2-amino-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-benzoate (958 mg, 3.21 mmol) in 1,4-dioxane (35 mL) was treated with 1.0 N NaOH(aq.) (8.24 mL, 8.24 mmol) and the reaction mixture was refluxed for 21 hours. Upon cooling to room temperature, the reaction mixture was filtered and the filtrate was concentrated. The residue was diluted with water and the pH was adjusted to ˜4 with 1.0 N HCl(aq.). The cloudy mixture was treated with ethyl acetate and the aqueous/organic mixture was stirred at room temperature for approx. 1 hour. The precipitate was filtered off, washed with water, ethyl acetate, and dried in vacuo at 50° C. to give the title compound as a yellow, amorphous solid (710.8 mg, 82%).

reactant | ethyl-3-(2-amino-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-benzoate | 3.21 mmol, 958 mg | C(C)OC(C1=CC(=CC=C1)N1CC2=C(N=C(N=C2)N)CC1)=O | C16H18N4O2
reactant | NaOH | 8.24 mmol, 1.0 N, 8.24 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)O)C=CC2 | C14H14N4O2
